US08431597B2
1-[(2R,4R)-2-(1H-benzimidazol-2-yl)-1-methylpiperidin-4-yl]-3-(4-cyanophenyl)urea
(2R,4R)-tert-butyl 2-((2-amino-phenyl)carbamoyl)-4-(3-(4-cyanophenyl)ureido)piperidine-1-carboxylate (1600 mg, 3.34 mmol) was dissolved in acetic acid (10 mL) and stirred at 65° C. for 2 hours. The reaction mixture was concentrated under reduced pressure to remove acetic acid. Trifluoroacetic acid (10 mL) was added to the residue. The resulting solution was stirred at room temperature for 2 hours. The reaction mixture was concentrated to remove TFA and the resulting product was used in the next step without further purification. 37% formaldehyde solution (1.24 mL, 16.7 mmol) in water was added to a solution of the residue in methanol (20 mL) and the reaction mixture was stirred at room temperature for 1 hour, then 1M sodium cyanoborohydride in THF (10.5 mL, 10.5 mmol) was added at 0° C. The reaction mixture was stirred at room temperature for 18 hours and the solvent was evaporated under vacuum. Saturated sodium bicarbonate solution (50 mL), water (100 mL) and ethyl acetate (200 mL) were added and the mixture was stirred about 30 min. The organic layer was separated, dried over MgSO4, and concentrated. The resulting product was purified by Companion (ReadySep 40 g, silica gel packed) using CH3OH/CH2Cl2 from 1-5% as eluent to provide the title compound as an off-white solid 915 mg (73%). LC-MS: 375.3, 373.3 (t=1.5 min). 1H NMR (acetone-D6): δ 1.81 (m, 2H), 1.9-2.05 (m, 2H), 2.10 (m, 1H), 2.17 (s, 3H), 2.52 (m, 1H), 2.94 (m, 1H), 3.86 (m, 1H), 4.2 (m, 1H), 6.4 (d, 1H), 7.16 (m, 2H), 7.52 (m, 2H), 7.60 (m, 2H), 7.62 (m, 2H), 8.46 (s, 1H).

reactant | (2R,4R)-tert-butyl 2-((2-amino-phenyl)carbamoyl)-4-(3-(4-cyanophenyl)ureido)piperidine-1-carboxylate | 3.34 mmol, 1600 mg | NC1=C(C=CC=C1)NC(=O)[C@@H]1N(CC[C@H](C1)NC(=O)NC1=CC=C(C=C1)C#N)C(=O)OC(C)(C)C | C25H30N6O4
reactant | formaldehyde | 16.7 mmol, 1.24 mL | C=O | CH2O
reactant | sodium cyanoborohydride | 1M | C(#N)[BH3-].[Na+]
reactant | THF | 10.5 mmol, 10.5 mL | C1CCOC1 | C4H8O
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | methanol | 20 mL | CO | CH4O
product | 1-[(2R,4R)-2-(1H-benzimidazol-2-yl)-1-methylpiperidin-4-yl]-3-(4-cyanophenyl)urea | 915 mg, 73% | N1C(=NC2=C1C=CC=C2)[C@@H]2N(CC[C@H](C2)NC(=O)NC2=CC=C(C=C2)C#N)C | C21H22N6O
